US06531491B1
2-Amino-3-nitro-benzoic acid (1.8 g, 9.9 mmol) and methylamine hydrochloride (1.33 g, 19.8 mmol), were stirred in dry CH2Cl2 (30 ml)/DMF (5 mL) at 0° C. EDC (2.83 g, 14.8 mmol) and DIEA (4.92 mL, 27.7 mmol) were added, and the solution stirred 3 h while warming to r.t. The reaction was concentrated in vacuo and purified by silica gel chromatography (8% MeOH/CHCl3) to give 1.42 g (74%) of 2-amino-N-methyl-3-nitro-benzamide as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 8.58 (br s, 1H), 8.23 (br s, 2H), 8.15 (dd, 1H, J=8.1, 1.8 Hz), 7.82 (dd, 1H, J=8.1, 1.8 Hz), 6.68 (t, 1H, J=8.1 Hz), 2.76 (d, 3H, J=4.5 Hz).

reactant | 2-Amino-3-nitro-benzoic acid | 9.9 mmol, 1.8 g | NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H6N2O4
reactant | methylamine hydrochloride | 19.8 mmol, 1.33 g | Cl.CN
reactant | EDC | 14.8 mmol, 2.83 g
reactant | DIEA | 27.7 mmol, 4.92 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-amino-N-methyl-3-nitro-benzamide | 1.42 g, 74% | NC1=C(C(=O)NC)C=CC=C1[N+](=O)[O-] | C8H9N3O3
